US06747035B2
7-acetamido-4-benzyl-1-methyl-4H-[1,2,4]triazolo[4,3-a]quinazolin-5-one (R1: 7-acetamido, R2: methyl, R3: benzyl)
7.0 g (21.6 mmol) of 6-acetamido-3-benzyl-2-hydrazino-3,4-dihydro-quinazolin-4-one (synthesized according to a process described in patent application WO 00/66584) dissolved in glacial acetic acid are placed in a round-bottomed flask equipped with a stirrer and a condenser. Then, 3.15 g (23.8 mmol) of cyclopentylformyl chloride are added in a portionwise manner with stirring. The solution obtained is heated to reflux for 20 min. The solvent is evaporated off under vacuum and the residue is taken up in water.

reactant | 6-acetamido-3-benzyl-2-hydrazino-3,4-dihydro-quinazolin-4-one | 21.6 mmol, 7.0 g | C(C)(=O)NC=1C=C2C(N(C(=NC2=CC1)NN)CC1=CC=CC=C1)=O | C17H17N5O2
reactant | cyclopentylformyl chloride | 23.8 mmol, 3.15 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-acetamido-4-benzyl-1-methyl-4H-[1,2,4]triazolo[4,3-a]quinazolin-5-one | C(C)(=O)NC=1C=C2C(N(C=3N(C2=CC1)C(=NN3)C)CC3=CC=CC=C3)=O | C19H17N5O2
